US04851526
2-[[[4-(1H-Imidazol-1-yl)phenyl](propyl)amino]carbonyl]-cyclohexane carbonyl chloride
In a manner similar to Preparation 15, react 2-[[[4-(1H-imidazol-1-yl)phenyl](propyl)amino]carbonyl]cyclohexanecarboxylic acid with thionyl chloride to obtain the title compound.

reactant | 2-[[[4-(1H-imidazol-1-yl)phenyl](propyl)amino]carbonyl]cyclohexanecarboxylic acid | N1(C=NC=C1)C1=CC=C(C=C1)N(C(=O)C1C(CCCC1)C(=O)O)CCC | C20H25N3O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-[[[4-(1H-Imidazol-1-yl)phenyl](propyl)amino]carbonyl]-cyclohexane carbonyl chloride | N1(C=NC=C1)C1=CC=C(C=C1)N(C(=O)C1C(CCCC1)C(=O)Cl)CCC | C20H24ClN3O2
